US05998402
5-Benzyloxy-2-(4-benzyloxy-phenyl)-1-[4-(3-piperidin-1-yl-propoxy)-benzyl]-3-methyl-1H-indole
A solution of 5-Benzyloxy-2-(4-benzyloxy-phenyl)-1-[4-(3-chloro-propoxy)-benzyl]-3-methyl-1H-indole No. 164 (3 g, 5.1 mmol), potassium iodide (2.5 g, 15.3 mmol) and piperidine (3.0 mL, 30.6 mmol) were heated in DMF (30 mL) at 100° C. for 18 hours. The reaction was worked up by pouring into water and extracting with ethyl acetate. The organic layer was washed with water, brine and dried over magnesium sulfate. The solution was concentrated to an oil and the product precipitated out by adding methanol. The product was obtained as a white solid: Mp=104-106° C.; 1H NMR (DMSO) 7.47 (d, 4H, J=7.5 Hz), 7.38 (q, 4H, J=7.9 Hz), 7.36-7.30 (m, 1H), 7.28 (d, 2H, J=8.3 Hz), 7.19 (d, 1H, J=8.8 Hz), 7.12-7.10 (m, 4H), 6.80 (dd, 1H, J=8.8, 2.0 Hz), 6.72 (s, 4H), 5.14 (s, 2H), 5.13 (s, 2H), 5.11 (s, 2H), 3.86 (t, 2H, J=6.4 Hz), 2.35-2.20 (m, 6H), 2.14 (s, 3H), 1.78-1.75 (m, 2H), 1.47-1.42 (m, 4H), 1.40-1.31 (m, 2H); MS eI m/z 650.

reactant | 5-Benzyloxy-2-(4-benzyloxy-phenyl)-1-[4-(3-chloro-propoxy)-benzyl]-3-methyl-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)OCCCCl)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C39H36ClNO3
reactant | potassium iodide | 15.3 mmol, 2.5 g | [I-].[K+]
reactant | piperidine | 30.6 mmol, 3.0 mL | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 5-Benzyloxy-2-(4-benzyloxy-phenyl)-1-[4-(3-piperidin-1-yl-propoxy)-benzyl]-3-methyl-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)OCCCN1CCCCC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C44H46N2O3
